US20010007873A1
B. 3-Cyclopentyl-phenol
Under a N2 atmosphere in 30 ml of EtOAc were combined 1-(3-benzyloxy-phenyl)-cyclopentanol (2.8 g, 10.4 mmol), 3 drops of concentrated HCl, and 10% Pd/C (1 g). A resultant mixture was hydrogenated (Tetrahedran Assymetry, 1360, 1993) at 40 psi for 2 hours. The reaction mixture was filtered through a pad of celite and concentrated under vacuo to afford 1.3 g (77%) of the title compound as an oil.

reactant | 1-(3-benzyloxy-phenyl)-cyclopentanol | 10.4 mmol, 2.8 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1(CCCC1)O | C18H20O2
reactant | Tetrahedran | C12C3C1C23 | C4H4
solvent | EtOAc | 30 ml | CCOC(=O)C | C4H8O2
catalyst | HCl | 3 drops | Cl | ClH
catalyst | Pd/C | 1 g | [Pd] | Pd
product | 3-Cyclopentyl-phenol | 1.3 g, 77% | C1(CCCC1)C=1C=C(C=CC1)O | C11H14O
